US07618985B2
To a solution of 6-methoxyisoquinoline (2.38 g, 14.9 mmol) in dichloromethane (55 ml) was added AlCl3 (4.4 g, 33 mmol) under nitrogen at ambient temperature. The mixture was stirred for 30 min then Br2 (0.92 ml, 18 mmol) was added at 0° C. The mixture was stirred for 2 h, then poured into water and neutralised with solid Na2CO3. The mixture was filtered through celite and the filtrate extracted with dichloromethane and chloroform. The combined organics were washed with brine, dried (Na2SO4) and concentrated in vacuo to give a residue. Flash chromatography of the residue on silica (eluent: 50-100% ethyl acetate in heptane) gave 5-bromo-6-methoxyisoquinoline (1.2 g, 34% yield).

reactant | 6-methoxyisoquinoline | 14.9 mmol, 2.38 g | COC=1C=C2C=CN=CC2=CC1 | C10H9NO
reactant | AlCl3 | 33 mmol, 4.4 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | Br2 | 18 mmol, 0.92 ml | BrBr | Br2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 55 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-bromo-6-methoxyisoquinoline | 1.2 g, 34% yield | BrC1=C2C=CN=CC2=CC=C1OC | C10H8BrNO
